US07732461B2
3-Chloro-4-({(3R,4S)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}methyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was synthesised from racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c)) according to the general method of Example 2(h), in 58% yield

reactant | racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | N[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C16H19ClN4O2
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
product | 3-Chloro-4-({(3R,4S)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}methyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | 58% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3C[C@H]([C@H](CC3)NCC3=CC1=C(C=N3)OCCO1)O)=O | InChI=1S/C24H26ClN5O4.ClH/c25-16-9-28-18-1-2-22(32)30-12-14(23(16)24(18)30)11-29-4-3-17(19(31)13-29)27-8-15-7-20-21(10-26-15)34-6-5-33-20;/h1-2,7,9-10,14,17,19,27,31H,3-6,8,11-13H2;1H/t14?,17-,19+;/m0./s1
